US06548694B2
A suspension of 170 mg (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid ethyl ester hydrochloride described in example 3.8 in 5 ml THF was cooled to 0° C. and treated with 1.8 ml 1N LiOH solution. The mixture was stirred for 2 hrs at 0° C., then neutralized with 1N HCl. The precipitate was filtered off and washed with H2O and Et2O to yield 129 mg of (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid as an off-white solid. This isomeric mixture was separated into the diastereomers by preparative HPLC on a chiral stationary phase (Chiralpak AD) using heptane/isopropanol/trifluoroacetic acid (75:25:0.2) as a mobile phase to give, after neutralization, (R)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid and (S)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid as off-white solids.

reactant | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid ethyl ester hydrochloride | 170 mg | Cl.C(C)OC(C(C1=C(C(=CC(=C1)OCC)O[C@H]1COCC1)F)NC1=CC=C(C=C1)C(N)=N)=O
reactant | LiOH | 1N, 1.8 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid | 129 mg | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)O)C1=C(C(=CC(=C1)OCC)O[C@H]1COCC1)F | C21H24FN3O5
